US08283353B2
4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (5.0 g), butane-2,3-diol (1.8 g), 4-methylbenzenesulfonic acid (0.19 g) and toluene (20 mL) was heated with a Dean-Stark apparatus under reflux for 8 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. 40% of the residue was dissolved in tetrahydrofuran (30 mL), sodium cyanoborohydride (1.3 g) and boron trifluoride etherate (2.6 mL) were added, and the mixture was heated under reflux for 13 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was dissolved in acetonitrile (10 mL), Dess-Martin periodinane (1.7 g) was added, and the mixture was stirred at room temperature for 14 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were added to the reaction mixture, and the mixture was stirred for 3 hr. The solvent was evaporated under reduced pressure, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). Methylmagnesium bromide (6.2 mL, 1.0 M tetrahydrofuran solution) was added dropwise at 0° C., and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to 1 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.24 g, 10%).

reactant | 4′-{[2-methyl-5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 5.0 g | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C2CCC(CC2)=O)=N1 | C29H29N5O2
reactant | butane-2,3-diol | 1.8 g | CC(C(C)O)O | C4H10O2
reactant | 4-methylbenzenesulfonic acid | 0.19 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | Dess-Martin periodinane | 1.7 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4′-({4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.24 g, 10% | OC(C(O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)C)(C)C | C34H41N5O3
